US06972340B2
methyl 2-{4-[(tert-butoxycarbonyl)amino]butoxy}-6-hydroxybenzoate
To a round bottom flask was charged with tert-butyl 4-hydroxybutylcarbamate (400 mg, 2.1 mmol), 463 mg of 2,6-dihydroxybenzoate (463 mg, 2.7 mmol), and triphenylphosphine (777 mg, 3.0 mmol). The flask was vacuumed and back flushed with nitrogen (3×), capped with a rubber septum, and kept under positive nitrogen atmosphere. THF (anhydrous) was then added, followed by dropwise addition of DEAD (433 μL, 2.7 mmol). Most of the starting material was consumed within the first 30 min. Solvent was then removed in vacuo, and the residue was purified on a silica gel chromatography eluting with 15-30% EtOAc in hexane to give the ether product (410 mg, 57%) as a cloroless oil.

reactant | tert-butyl 4-hydroxybutylcarbamate | 2.1 mmol, 400 mg | OCCCCNC(OC(C)(C)C)=O | C9H19NO3
reactant | 2,6-dihydroxybenzoate | 2.7 mmol, 463 mg | OC1=C(C(=O)[O-])C(=CC=C1)O
reactant | triphenylphosphine | 3.0 mmol, 777 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 2.7 mmol, 433 μL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
product | methyl 2-{4-[(tert-butoxycarbonyl)amino]butoxy}-6-hydroxybenzoate | C(C)(C)(C)OC(=O)NCCCCOC1=C(C(=O)OC)C(=CC=C1)O | C17H25NO6
